US09085563B2
4-amino-2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione
10% Pd/C (30 mg) was added to a THF solution of 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)-4-nitroisoindoline-1,3-dione (150 mg). The reaction vessel was pressurized with hydrogen gas at 5 times the atmospheric pressure. After 6 hrs of reaction time, the catalyst was filtered off and solvent was removed by rotary evaporation in vacuo yielding 138 mg of light-yellow solid. MS (m/e): 317.

reactant | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)-4-nitroisoindoline-1,3-dione | 150 mg | OCCN1C(C(CCC1=O)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O)=O | C15H13N3O7
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 30 mg | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 4-amino-2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione | 138 mg | NC1=C2C(N(C(C2=CC=C1)=O)C1C(N(C(CC1)=O)CCO)=O)=O | C15H15N3O5
